US07256259B2
Boc-Lys(N3)OH was synthesized from Boc-LysOH by using procedures for Cu(II)-catalyzed diazo-transfer to amines. (Alper, P. B.; Hung, S.-C.; Wong, C.-H. Tetrahedron Lett. 1996, 37, 6029-6032.) Boc-LysOH (4.38 g, 17.8 mmol), CuSO4.5H2O (44.7 mg, 178.2 □mol) and K2CO3 (3.69 g, 26.8 mmol) were dissolved in H2O (57 mL) and MeOH (114 mL). N3Tf (triflyl azide, 17.8 mmol in 150 mL CH2Cl2) was added, and the reaction mixture was stirred overnight. MeOH was removed under reduced pressure. The resulting aqueous solution (50 mL) was diluted with H2O (0.10 L), and the pH was adjusted to 6.0 with HCl. Sodium phosphate buffer (150 mL, 0.25 M, pH 6.2) was added, and the solution was washed with EtOAc (3×) to remove the triflic amine byproduct. The pH of the washed aqueous layer was adjusted to 2.0 with HCl, and the resulting solution was washed with EtOAc (4×) to extract the desired product. The organic layer was then dried over MgSO4(s) and filtered, and the solvent was removed under reduced pressure to yield Boc-Lys(N3)OH as a clear oil (50%). Spectral data. 1H NMR (500 MHz, CDCl3) δ:10.93 (broad s, 1H), 5.11 (d, J=8.3 Hz, 1H), 4.34 (m, 1H), 3.30 (d, J=7.0 Hz, 2H), 1.80 (m, 2H), 1.65 (m, 2H), 1.49 (m, 2H), 1.46 (s, 9H) ppm; 13C NMR (125 MHz, CDCl3) δ:179.96, 156.30, 97.44, 55.79, 53.79, 34.66, 31.07, 30.96, 25.20 ppm; MS (ESI) m/z 295.1383 (MNa+[C11H20N4O4Na]=295.1382).

reactant | Boc-LysOH | N([C@@H](CCCCN)C(=O)O)C(=O)OC(C)(C)C | C11H22N2O4
reactant | Boc-LysOH | 17.8 mmol, 4.38 g | N([C@@H](CCCCN)C(=O)O)C(=O)OC(C)(C)C | C11H22N2O4
reactant | K2CO3 | 26.8 mmol, 3.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N3Tf | 17.8 mmol, 150 mL | N(=[N+]=[N-])S(=O)(=O)C(F)(F)F | CF3N3O2S
solvent | H2O | 57 mL | O | H2O
solvent | MeOH | 114 mL | CO | CH4O
product | Boc-Lys(N3)OH | 50% | N([C@@H](CCCCNN=[N+]=[N-])C(=O)O)C(=O)OC(C)(C)C | C11H21N5O4
